US05374641
In 10 ml of ethanol were suspended 0.23 g of the thus obtained ethyl 4-{2-[N-benzyloxycarbonyl-N-(4-chlorobenzenesulfonyl)amino]-1-(3pyridyl)ethyl}phenyloxyacetate and 0.14 g of 10% palladium-carbon. The thus prepared suspension was subjected to 14 hours of catalytic reduction reaction at ambient temperature and pressure. The resulting reaction mixture was filtered to collect filtrate, and the solvent in the filtrate was removed by distillation under a reduced pressure. Thereafter, the resulting residue was applied to silica gel preparative TLC and developed twice with methanol-methylene chloride (5:95 v/v) to obtain 0.12 g of ethyl 4-[2-(4-chlorobenzenesulfonamido)-1-(3-pyridyl)ethyl]phenyloxyacetate from the band at an Rf value of from 0.65 to 0.43.

reactant | ethyl 4-{2-[N-benzyloxycarbonyl-N-(4-chlorobenzenesulfonyl)amino]-1-(3pyridyl)ethyl}phenyloxyacetate | C(C1=CC=CC=C1)OC(=O)N(S(=O)(=O)C1=CC=C(C=C1)Cl)CC(C=1C=NC=CC1)C1=CC=C(C=C1)OCC(=O)OCC | C31H29ClN2O7S
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.14 g | [C].[Pd]
product | ethyl 4-[2-(4-chlorobenzenesulfonamido)-1-(3-pyridyl)ethyl]phenyloxyacetate | 0.12 g | ClC1=CC=C(C=C1)S(=O)(=O)NCC(C=1C=NC=CC1)C1=CC=C(C=C1)OCC(=O)OCC | C23H23ClN2O5S
